US07230133B2
N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-(2R/S)-2-methyl-N′-(3-trifluoromethyl-phenyl)-malonamide
A solution of {(2S,3S)-3-hydroxy-2-[2-(3-trifluoromethyl-phenylcarbamoyl)-propionylamino]-hex-4-ynyl}-carbamic acid benzyl ester (40 mg, 0.08 mmol) in MeOH (2 mL) was charged with 5% Pd/C, Degussa style (8 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo. The residue was dissolved in MeOH (2 mL). The resultant solution was charged sequentially with 2,4-dimethylbenzaldehyde (0.009 mL, 0.06 mmol) and sodium cyanoborohydride (5 mg, 0.08 mmol), stirred for 12 h at RT, quenched with sat. NaHCO3, and extracted twice with EtOAc. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. Purification of the residue by reverse-phase HPLC provided the title compound as a white powder after lyopholization. MS found: (M+H)+=494.4.

reactant | {(2S,3S)-3-hydroxy-2-[2-(3-trifluoromethyl-phenylcarbamoyl)-propionylamino]-hex-4-ynyl}-carbamic acid benzyl ester | 0.08 mmol, 40 mg | C(C1=CC=CC=C1)OC(NC[C@@H]([C@H](C#CC)O)NC(C(C)C(NC1=CC(=CC=C1)C(F)(F)F)=O)=O)=O | C25H26F3N3O5
reactant | 2,4-dimethylbenzaldehyde | 0.06 mmol, 0.009 mL | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | sodium cyanoborohydride | 0.08 mmol, 5 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-(2R/S)-2-methyl-N′-(3-trifluoromethyl-phenyl)-malonamide | CC1=C(CNC[C@@H]([C@H](CCC)O)NC(C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C)=O)C=CC(=C1)C | C26H34F3N3O3
